US07943619B2
6-(5-Methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid cyclopropylamide
As described for example 69, 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid ethyl ester (100 mg, 0.29 mmol) was converted, using cyclopropylamine instead of isopropylamine, to the title compound (85 mg, 82%) which was obtained as a light brown solid. MS: m/e=352.3 [M+H]+.

reactant | 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid ethyl ester | 0.29 mmol, 100 mg | C(C)OC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=NC=C1 | C17H16N4O4
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | 6-(5-Methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid cyclopropylamide | 85 mg, 82% | C1(CC1)NC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=NC=C1 | C18H17N5O3
